US07223791B2
A mixture of methyl 3-(5-phenyl-3-isoxazolyl)benzoate (1.30 g), 1 M aqueous sodium hydroxide solution (10 ml), tetrahydrofuran (20 ml) and methanol (10 ml) was stirred at 60° C. for 1 hr. After cooling, the reaction mixture was poured into water, and 1 M hydrochloric acid (10 ml) was added. The crystals were collected by filtration and recrystallized from tetrahydrofuran-hexane to give 3-(5-phenyl-3-isoxazolyl)benzoic acid (1.05 g, yield 85%) as colorless crystals. melting point: 250–251° C.

reactant | methyl 3-(5-phenyl-3-isoxazolyl)benzoate | 1.30 g | C1(=CC=CC=C1)C1=CC(=NO1)C=1C=C(C(=O)OC)C=CC1 | C17H13NO3
reactant | sodium hydroxide | 1 M, 10 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M, 10 ml | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 3-(5-phenyl-3-isoxazolyl)benzoic acid | 1.05 g, yield 85% | C1(=CC=CC=C1)C1=CC(=NO1)C=1C=C(C(=O)O)C=CC1 | C16H11NO3
